2125-08-24 10:59:00 Physician Attending Progress Note
Chief Complaint: Diabetic ketoacidosis, nause/vomiting, renal failure,
   MI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on insulin infusion, antibiotics in the ED. Started on ASA for
   ST changes on ECG.
   In MICU, patient given volume resuscitation and was maintained on
   insulin infusion. Anion gap came down through the night. Nausea and
   vomiting improved. Switched to sc insulin.
   Troponin rose to 0.55 with CPK 220. ECG showed resolution of the
   lateral ST depressions.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Iodine
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2125-8-24**] 07:06 AM
   Other medications:
   Lasix, tacrolimus, plavix, prednisone, Bactrim, tacrolimus, insulin,
   atorvostatin, colace, reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-24**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 94 (93 - 140) bpm
   BP: 161/67(92) {121/48(66) - 161/76(92)} mmHg
   RR: 23 (19 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,441 mL
                                                                  2,649 mL
   PO:
             TF:
   IVF:
                                                                  1,441 mL
                                                                  2,649 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    220 mL
   Urine:
                                                                    300 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,141 mL
                                                                  2,431 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Dry oral mucosa
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal, Absent), (S2:
   Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), IIVI mid systolic murmur Left sternal border
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Rare, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, Left BKA
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   151 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.2 mEq/L
   29 mg/dL
   112 mEq/L
   139 mEq/L
        [image002.jpg]
                             [**2125-8-23**]  09:01 PM
                             [**2125-8-24**]  01:48 AM
                             [**2125-8-24**]  05:23 AM
   Cr
   1.3
   1.2
   1.0
   TropT
   0.55
   Glucose
   [**Telephone/Fax (3) 4062**]
   Other labs: PT / PTT / INR:14.3/30.3/1.2, CK / CKMB /
   Troponin-T:228/24/0.55, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR: No infiltrates or effusions. Normal size heart. Slightly
   prominent pulmonary artery on left centrally.
   Assessment and Plan
   1) DKA
   2) Acute renal failure
   3) Nausea and vominting
   4) Acute MI
   Patient with DKA, with unclear precipitating factor; patient may have
   had a viral gastroenteritis, although the GI symptoms more likely
   reflected consequences of the acidemia. MI can also be cause of DKA and
   patient had ECG changes and elevated enzymes. Patient has correctly
   nicely with resolution of acidosis and electrolytes repleted. Patient
   switched to subcutaneous insulin. Begin feeding.
   Acute elevation in creatinine on admission probably reflects volume
   depletion. Has improved with volume resuscitation. Still probably
   volume depleted; continue fluids today.
   No clear evidence of infection now. Antibiotics to be stopped.
   Continue aspirin for myocardial ischemia.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-8-23**] 08:30 PM
   18 Gauge - [**2125-8-23**] 08:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2125-08-25 07:19:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   BS dipped down to 60s in early a.m. Received bolus D5, with BS up to
   147 at next finger stick. On Insulin drip 2.5u/hr and D5 1/2NS
   100cc/hr.
   PICC line placed overnight in IR. No complications
   Pt complaining of mild nausea this a.m. Abdominal pain and LE pain from
   yesterday resolved. Denies dizziness.
   This a.m. pt reported substernal chest tightness to cardiology fellow.
   Reports that she has had this pain for some time intermittently,
   usually comes on without precipitating trigger, and travels between
   substernal area up to throat.
 PICC LINE - START [**2125-8-24**] 08:59 PM
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Iodine
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-24**] 02:43 PM
   Infusions:
   Insulin - Regular - 2.5 units/hour
   Other ICU medications:
   Dextrose 50% - [**2125-8-25**] 02:00 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2125-8-25**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.8
C (98.3
   HR: 77 (64 - 122) bpm
   BP: 124/62(78) {114/43(26) - 169/89(97)} mmHg
   RR: 10 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  5,459 mL
                                                                    797 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  5,399 mL
                                                                    747 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    790 mL
   Urine:
                                                                  2,380 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,079 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Room air
   SpO2: 99%
   Physical Examination
   GEN: alert, awake, NAD, mildly disheveled, pleasant
   HEENT: mm slightly dry, PERRL, EOMI grossly
   CV: RRR, 3/6 systolic murmur loudest at LUSB, no rubs/gallops
   LUNGS: diminished L lung field posteriorly, R lung field clear
   ABD: soft, NTND, bs+
   EXT: L BKA, R foot wrapped in gauze, no visible drainage, dressing
   clean and dry, R foot with 5^thdigit absent, no cyanosis/clubbing/
   edema
   Labs / Radiology
   175 K/uL
   10.2 g/dL
   125 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   10 mg/dL
   108 mEq/L
   134 mEq/L
   31.0 %
   9.5 K/uL
        [image002.jpg]
   AG = 4 (closed yesterday)
   Urine cx: NGTD
   Blood cx: pending
                                 CKMB   Index   Tp
   [1][**2125-8-25**] 05:57AM
                                     16*
                                    16.0*
                                  0.44*[1]
   ECHO [**2125-8-24**]
   EF = >65%
   The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thickness, cavity size and regional/global systolic
   function are normal (LVEF >55%). There is mild (non-obstructive) focal
   hypertrophy of the basal septum. The estimated cardiac index is normal
   (>=2.5L/min/m2). Right ventricular chamber size and free wall motion
   are normal. The aortic valve leaflets (3) are mildly thickened but
   aortic stenosis is not present. Trace aortic regurgitation is seen. The
   mitral valve appears structurally normal with trivial mitral
   regurgitation. There is no mitral valve prolapse. There is mild
   pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   Compared with the report of the prior study (images unavailable for
   review) of [**2118-12-6**], the findings are similar.
   CXR [**8-25**]
   FINDINGS: In comparison with the study of [**8-23**], there is again evidence
   of
   median sternotomy and CABG. No evidence of acute focal pneumonia or
   vascular
   congestion.
   Right subclavian catheter extends to the upper to mid portion of the
   SVC.
                             [**2125-8-23**]  09:01 PM
                             [**2125-8-24**]  01:48 AM
                             [**2125-8-24**]  05:23 AM
                             [**2125-8-24**]  12:58 PM
                             [**2125-8-24**]  09:45 PM
                             [**2125-8-25**]  05:57 AM
   WBC
   10.6
   9.5
   Hct
   30.2
   31.0
   Plt
   183
   175
   Cr
   1.3
   1.2
   1.0
   0.9
   0.8
   0.7
   TropT
   0.55
   0.86
   Glucose
   [**Telephone/Fax (3) 4081**]47
   105
   125
   Other labs: PT / PTT / INR:14.3/48.0/1.2, CK / CKMB /
   Troponin-T:234/27/0.86, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   A/P
   Ms. [**Known lastname **] is a 47 year old female with medical history significant for
   Type I Diabetes with ESRD s/p renal transplant in [**2118**] on chronic
   immunosuppressive agents, who presents with nausea and vomiting of 4
   days' duration, and found to be in DKA.
   1) DKA: gap closed yesterday. DDx for precipitating factor include
   diarrhea, gastroparesis, c.diff, mi, infection. Did not restart abx
   after the single dose of levaquin in ED as pt without s/s of infection.
   Trigger may likely be retained Tampon, left in place x 5 days.
   - Can monitor lytes daily now
   - Continue D5
 NS with K until pt tolerating PO
   - [**Last Name (un) 276**] following. Humalog sliding scale written per recs. Pt to start
   basal insulin dose Lantus 15u at 5pm, then have Insulin and D51/2NS
   drip d/c
ed once tolerates dinner this evening.
   - Continue finger sticks
   - Urine culture NGTD
   - F/u on pending blood culture
   .
   2) Right heel ulcer
   - followed as outpt
   - podiatry consulted, saw pt
s foot in recent weeks and report that
   ulcer status improved. continue Adaptic and gauze dressing for now.
   3) DM, type 1: as above.
   - Re-starting Lantus at 15u today. Will d/c insulin drip and D5 1/2NS
   in evening once pt tolerates dinner.
   4) ARF: resolving. Currently Cr 0.7. Cr 1.7 on admission. No recent
   labs to confirm baseline, however, Cr improving with hydration, thus
   likely pre-renal.
   - U/S of transplanted kidney showing mild pelviectasis- check
   significance
   - Will continue to monitor Cr
   - renally dose meds
   5) Lower abdominal tenderness: unclear etiology but resolved.
   6) S/p renal transplant:
   - Continue current immunosuppressive regimen
   - Tacrolimus 4.2 this am (slightly sub-therapeutic). Consider
   re-dosing.
   - Renal team aware of pt's admission. F/u on recs if any.
   7) EKG changes, likely demand ischemia due to tachycardia, mild
   troponin leak but CK WNL. Chest pain this a.m.
   - CE
s re-checked this a.m. Tp trending down (0.44, peak of 0.86
   yesterday.) EKG this a.m. unchanged from previous, with no new signs of
   ischemia/infarction.
   - Continue fluid resuscitation PRN.
   - Cardiology following. F/u on recs.
   - defer heparin gtt for now
   - Continue Aspirin 325 daily, Atorvastatin 80 daily, Isosorbide
   Dinitrate 20 [**Hospital1 **], Metoprolol 50 tid, Lasix 20 daily at home dosages.
   8) Depression:
   - continue cymbalta
   9) FEN
   - Advance to cardiac/diabetic diet as tolerated.
   - Replete lytes PRN, especially K
   .
   10) Access
   - two PIVs. PICC now in place ([**8-25**])
   .
   11) PPx
   - Heparin SQ, Famotidine
   .
   12) Code: DNR, but ok to intubate. I confirmed with patient today
   ([**2125-8-25**]). Husband present.
   .
   13) Dispo: ICU until glucose WNL and stable.
   .
   14) Comm: with patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-8-23**] 08:30 PM
   18 Gauge - [**2125-8-23**] 08:30 PM
   PICC Line - [**2125-8-24**] 08:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);

2125-08-25 12:58:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2125-8-24**] 08:59 PM
   Retained tampon found and removed
   Podiatry states ulcer looks better than prior
   Echo: trace AR trace AI no vegetations LVEF 65%
   Lasix, Requip, Mycophenlate, Tacro Prednisone 3 mg Plavix Imdur Bactrim
   Lipitor Lopressor Famotidine
   Insulin at 2.5, D10
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Iodine
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-24**] 02:43 PM
   Infusions:
   Insulin - Regular - 2.5 units/hour
   Other ICU medications:
   Dextrose 50% - [**2125-8-25**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-25**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (98.9
   HR: 74 (64 - 122) bpm
   BP: 100/49(58) {100/43(26) - 170/89(97)} mmHg
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  5,459 mL
                                                                  1,288 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  5,399 mL
                                                                  1,238 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                  1,890 mL
   Urine:
                                                                  2,380 mL
                                                                  1,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,079 mL
                                                                   -602 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   175 K/uL
   125 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   10 mg/dL
   108 mEq/L
   134 mEq/L
   31.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2125-8-23**]  09:01 PM
                             [**2125-8-24**]  01:48 AM
                             [**2125-8-24**]  05:23 AM
                             [**2125-8-24**]  12:58 PM
                             [**2125-8-24**]  09:45 PM
                             [**2125-8-25**]  05:57 AM
   WBC
   10.6
   9.5
   Hct
   30.2
   31.0
   Plt
   183
   175
   Cr
   1.3
   1.2
   1.0
   0.9
   0.8
   0.7
   TropT
   0.55
   0.86
   Glucose
   [**Telephone/Fax (3) 4081**]47
   105
   125
   Other labs: PT / PTT / INR:14.3/48.0/1.2, CK / CKMB /
   Troponin-T:234/27/0.86, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   1) DKA: back on insulin drip to due rising glucose levels, and
   inability to tolerate pos. Was put on D10 this AM for BS 50-60, back up
   to 170 and will try to transition back to d51/2 with hope of her taking
   pos this afternoon and getting gtss off and long acting insulin on
   board.
   2) Acute renal failure: resolved with hydration, US with mild
   pelviectasis
   3) Nausea and vomiting: significantly improved
   4) Acute MI: Appreciate Cardiology consultation, did have a episoide of
   chest heaviness this AM which she did not report until resolved.
   Continue ASA, bblocker, Plavix.
   ICU Care
   Nutrition: will try [**Doctor First Name 470**] diet today
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-8-23**] 08:30 PM
   18 Gauge - [**2125-8-23**] 08:30 PM
   PICC Line - [**2125-8-24**] 08:59 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP: n/a
   Communication:  Comments: with pt and husband
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2125-08-26 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Iodine
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-24**] 02:43 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-8-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-26**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 70 (66 - 89) bpm
   BP: 114/58(71) {82/49(58) - 170/78(98)} mmHg
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  2,141 mL
                                                                     30 mL
   PO:
                                                                    210 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,881 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                    650 mL
   Urine:
                                                                  3,365 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,224 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   175 K/uL
   10.2 g/dL
   76 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   5 mg/dL
   107 mEq/L
   137 mEq/L
   31.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2125-8-23**]  09:01 PM
                             [**2125-8-24**]  01:48 AM
                             [**2125-8-24**]  05:23 AM
                             [**2125-8-24**]  12:58 PM
                             [**2125-8-24**]  09:45 PM
                             [**2125-8-25**]  05:57 AM
                             [**2125-8-26**]  04:58 AM
   WBC
   10.6
   9.5
   Hct
   30.2
   31.0
   Plt
   183
   175
   Cr
   1.3
   1.2
   1.0
   0.9
   0.8
   0.7
   0.7
   TropT
   0.55
   0.86
   0.44
   Glucose
   [**Telephone/Fax (3) 4081**]47
   105
   125
   76
   Other labs: PT / PTT / INR:14.3/48.0/1.2, CK / CKMB /
   Troponin-T:100/16/0.44, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 47 year old female with medical history significant for
   Type I Diabetes with ESRD s/p renal transplant in [**2118**] on chronic
   immunosuppressive agents, who presents with nausea and vomiting of 4
   days' duration, and found to be in DKA.
   1) DKA: gap closed yesterday. DDx for precipitating factor include
   diarrhea, gastroparesis, c.diff, mi, infection. Did not restart abx
   after the single dose of levaquin in ED as pt without s/s of infection.
   Trigger may likely be retained Tampon, left in place x 5 days.
   - Can monitor lytes daily now
   - Continue D5
 NS with K until pt tolerating PO
   - [**Last Name (un) 276**] following. Humalog sliding scale written per recs. Pt to start
   basal insulin dose Lantus 15u at 5pm, then have Insulin and D51/2NS
   drip d/c
ed once tolerates dinner this evening.
   - Continue finger sticks
   - Urine culture NGTD
   - F/u on pending blood culture
   .
   2) Right heel ulcer
   - followed as outpt
   - podiatry consulted, saw pt
s foot in recent weeks and report that
   ulcer status improved. continue Adaptic and gauze dressing for now.
   3) DM, type 1: as above.
   - Re-starting Lantus at 15u today. Will d/c insulin drip and D5 1/2NS
   in evening once pt tolerates dinner.
   4) ARF: resolving. Currently Cr 0.7. Cr 1.7 on admission. No recent
   labs to confirm baseline, however, Cr improving with hydration, thus
   likely pre-renal.
   - U/S of transplanted kidney showing mild pelviectasis- check
   significance
   - Will continue to monitor Cr
   - renally dose meds
   5) Lower abdominal tenderness: unclear etiology but resolved.
   6) S/p renal transplant:
   - Continue current immunosuppressive regimen
   - Tacrolimus 4.2 this am (slightly sub-therapeutic). Consider
   re-dosing.
   - Renal team aware of pt's admission. F/u on recs if any.
   7) EKG changes, likely demand ischemia due to tachycardia, mild
   troponin leak but CK WNL. Chest pain this a.m.
   - CE
s re-checked this a.m. Tp trending down (0.44, peak of 0.86
   yesterday.) EKG this a.m. unchanged from previous, with no new signs of
   ischemia/infarction.
   - Continue fluid resuscitation PRN.
   - Cardiology following. F/u on recs.
   - defer heparin gtt for now
   - Continue Aspirin 325 daily, Atorvastatin 80 daily, Isosorbide
   Dinitrate 20 [**Hospital1 **], Metoprolol 50 tid, Lasix 20 daily at home dosages.
   8) Depression:
   - continue cymbalta
   9) FEN
   - Advance to cardiac/diabetic diet as tolerated.
   - Replete lytes PRN, especially K
   .
   10) Access
   - two PIVs. PICC now in place ([**8-25**])
   .
   11) PPx
   - Heparin SQ, Famotidine
   .
   12) Code: DNR, but ok to intubate. I confirmed with patient today
   ([**2125-8-25**]). Husband present.
   .
   13) Dispo: ICU until glucose WNL and stable.
   .
   14) Comm: with patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-8-23**] 08:30 PM
   18 Gauge - [**2125-8-23**] 08:30 PM
   PICC Line - [**2125-8-24**] 08:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-08-26 11:43:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 F PMH tobacco use, type I DM, CAD s/p CABG, ESRD s/p renal
   transplant admitted with DKA.  Trigger is unclear.
   24 Hour Events:
   -Insulin drip stopped and lantus started
   -Ear pain last night with normal exam
   -Tolerating oral diet
   -Cardiac markers continue to trend down and EKG unchanged; no recurrent
   CP
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Iodine
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-8-26**] 06:00 AM
   Other medications:
   Lantus 15
   RISS
   Lasix 20 mg daily
   Requip
   Duloxetine
   Cellcept
   Tacrolimus
   Prednisone
   Plavix
   Isordil
   Bactrim
   Ultram
   Lipitor
   ASA
   Lopressor
   Reglan
   Famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2125-8-26**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 63 (63 - 85) bpm
   BP: 89/42(52) {82/42(52) - 155/78(98)} mmHg
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,141 mL
                                                                    230 mL
   PO:
                                                                    210 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,881 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                    990 mL
   Urine:
                                                                  3,365 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,224 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   175 K/uL
   74
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   5 mg/dL
   107 mEq/L
   137 mEq/L
   31.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2125-8-23**]  09:01 PM
                             [**2125-8-24**]  01:48 AM
                             [**2125-8-24**]  05:23 AM
                             [**2125-8-24**]  12:58 PM
                             [**2125-8-24**]  09:45 PM
                             [**2125-8-25**]  05:57 AM
                             [**2125-8-26**]  04:58 AM
                             [**2125-8-26**]  08:00 AM
   WBC
   10.6
   9.5
   Hct
   30.2
   31.0
   Plt
   183
   175
   Cr
   1.3
   1.2
   1.0
   0.9
   0.8
   0.7
   0.7
   TropT
   0.55
   0.86
   0.44
   Glucose
   [**Telephone/Fax (3) 4081**]47
   105
   125
   76
   74
   Other labs: PT / PTT / INR:14.3/48.0/1.2, CK / CKMB /
   Troponin-T:100/16/0.44, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Imaging: None.
   Assessment and Plan: 51 F PMH tobacco use, DM 1, CAD s/p CABG, ESRD s/p
   renal transplant admitted with DKA without clear trigger, though she
   was found to have a retained tampon.  Her gap closed quickly and she is
   now off the insulin drip, back on lantus and tolerating an oral diet.
   1)       DM
 Continue Lantus.  RISS.  Diabetic diet.  [**Last Name (un) 276**]
   following.  No clear cause of DKA but suspect retained tampon may have
   contributed.  We will stop her vancomycin and monitor.
   2)       Renal transplant
 Creatinine normalized.  Continue
   immunosuppressants and prophylactic meds.  Follow tacro level.
   3)       Heel ulcer
 Continue wound care.  Podiatry follow up.
   4)       CAD
 No further chest pain and markers continue to trend
   down.  Continue ASA, lopressor, statin, nitrate.
   ICU Care
   Nutrition: Cardiac, diabetic.
   Glycemic Control:  Regular insulin sliding scale
   Lines:  Peripheral IV
   20 Gauge - [**2125-8-23**] 08:30 PM
   18 Gauge - [**2125-8-23**] 08:30 PM
   PICC Line - [**2125-8-24**] 08:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Famotidine
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: DNR.  Intubation OK.
   Disposition :Transfer to floor
   ------ Protected Section ------
   Pt with acute episode of chest pain [**7-26**] x 10 minutes today whil
   eetaing lunch at 1:45- ECG done as pain was present but at lower level
   and without dramatic changes,. However in light of her severe CAD, and
   severity of pain assoc with hemodynamic changes elected to restart
   heparin and re cycle enzymes. Cardiology attg was present at time of
   episode and plan discussed with them as well.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2125-8-26**] 14:40 ------

2125-08-26 15:58:00 Physician Resident Progress Note
Chief Complaint: nausea and vomiting x 4 days
   24 Hour Events:
   Another episode of chest pain at approximately 2 pm today; Mid-sternal,
   gradual onset, described as tightness, maximal [**2127-6-23**], hypertensive to
   SBP 160, subsided after 5-10 minutes. No nausea, vomiting, or SOB. EKG
   obtained, no significant change since prior. CEs done.
   c/o minimal nausea, was able to tolerate dinner last night and
   breakfast this morning. Insulin gtt and D5 1/2NS stopped last night,
   and basal lantus and RISS started [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs
   Pt c/o left ear pain --> has a plug of cerumen obstructing the canal.
   No drainage, erythema. No tenderness over the mastoid.
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Iodine
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2125-8-26**] 08:00 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-8-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-8-26**] 03:57 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 68 (63 - 85) bpm
   BP: 90/55(62) {89/42(52) - 162/78(98)} mmHg
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,141 mL
                                                                    235 mL
   PO:
                                                                    210 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,881 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                  1,250 mL
   Urine:
                                                                  3,365 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,224 mL
                                                                 -1,015 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place and time, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   143 K/uL
   10.1 g/dL
   74
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   5 mg/dL
   107 mEq/L
   137 mEq/L
   31.3 %
   5.1 K/uL
        [image002.jpg]
                             [**2125-8-23**]  09:01 PM
                             [**2125-8-24**]  01:48 AM
                             [**2125-8-24**]  05:23 AM
                             [**2125-8-24**]  12:58 PM
                             [**2125-8-24**]  09:45 PM
                             [**2125-8-25**]  05:57 AM
                             [**2125-8-26**]  04:58 AM
                             [**2125-8-26**]  08:00 AM
                             [**2125-8-26**]  02:47 PM
   WBC
   10.6
   9.5
   5.1
   Hct
   30.2
   31.0
   31.3
   Plt
   183
   175
   143
   Cr
   1.3
   1.2
   1.0
   0.9
   0.8
   0.7
   0.7
   TropT
   0.55
   0.86
   0.44
   0.46
   Glucose
   [**Telephone/Fax (3) 4081**]47
   105
   125
   76
   74
   Other labs: PT / PTT / INR:14.3/48.0/1.2, CK / CKMB /
   Troponin-T:34/4/0.46, Differential-Neuts:77.5 %, Lymph:17.6 %, Mono:4.1
   %, Eos:0.8 %, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 47 year old female with medical history significant for
   Type I Diabetes with ESRD s/p renal transplant in [**2118**] on chronic
   immunosuppressive agents, who presents with nausea and vomiting of 4
   days' duration, and found to be in DKA.
   1) DKA: resolved. DDx for precipitating factor include diarrhea,
   gastroparesis, c.diff, mi, infection, viral gastroenteritis (given abd
   pain on admission) Vancomycin was started with history of retained
   tampon that was left in place for 5 days. PO antibiotics to replace
   Vanc for empiric treatment of TSS was considered however pt is allergic
   to Augmentin, which is the best alternative. Pt is afebrile, with WBC
   trending down. Will d/c abx and monitor for clinical symptoms/WBC
   trend.
   - [**Last Name (un) 276**] following. Continue finger sticks. Humalog sliding scale
   written per recs and basal insulin dose Lantus 15u at 5pm started.
   - Urine culture neg (final)
   - B Cx NGTD
   .
   2) Right heel ulcer
   - podiatry consulted, saw pt
s foot in recent weeks and report that
   ulcer status improved. continue Adaptic and gauze dressing for now.
   f/u as outpt
   3) DM, type 1: as above.
   4) ARF: resolved Cr 1.7 on admission, 0.7 this AM. No recent labs to
   confirm baseline, however, Cr improved and stable at 0.7 with
   hydration, thus likely pre-renal.
   - U/S of transplanted kidney showing mild pelviectasis
   - Will continue to monitor Cr
   5) Lower abdominal tenderness: unclear etiology but resolved. [**Month (only) 60**] have
   had an viral gastroenteritis that triggered DKA.
   6) S/p renal transplant:
   - Continue current immunosuppressive regimen
   - recheck Tacro level
   - Renal team aware of pt's admission. F/u on recs if any.
   7) EKG changes, likely demand ischemia due to tachycardia, mild
   troponin leak but CK WNL. Chest pain again today.
   - CE
s re-checked. Stable trop; CK, CK-MB WNL.
   - Continue fluid resuscitation PRN.
   - re-start heparin gtt for now  per cards recs.
   - Continue Aspirin 325 daily, Atorvastatin 80 daily, Isosorbide
   Dinitrate 20 [**Hospital1 **], Metoprolol 50 tid, Lasix 20 daily at home dosages.
   8) Depression:
   - continue cymbalta
   9) FEN
   - cardiac/diabetic diet.
   - Replete lytes PRN, especially K
   .
   10) Access
   - two PIVs. PICC now in place ([**8-25**])
   .
   11) PPx
   - Heparin SQ, Famotidine
   .
   12) Code: DNR, but ok to intubate- confirmed with patient [**2125-8-25**].
   Husband present.
   .
   13) Dispo: C/o to Cardiology floor given pt
s frequent chest pains
   .
   14) Comm: with patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-8-24**] 08:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: